US05864039
To a solution of 60% sodium hydride (0.58 g) in dimethylformamide (10 ml) was added dropwise a solution of cis-4-azidomethyl-1-tert-butoxycarbonyl-3-hydroxypiperidine (3.4 g) in dimethylformamide (50 ml), and the resulting mixture was stirred at room temperature for 1 hr. Methyl iodide (1.24 ml) was added to the mixture with stirring, and the resulting mixture was stirred at room temperature for 15 hr. Water was added to the reaction mixture and the mixture was extracted with chloroform. The organic layer was washed with brine and dried. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (chloroform) to give 1.5 g of cis-4-azidomethyl-1-tert-butoxycarbonyl-3-methoxypiperidine.

reactant | sodium hydride | 0.58 g | [H-].[Na+]
reactant | cis-4-azidomethyl-1-tert-butoxycarbonyl-3-hydroxypiperidine | 3.4 g | N(=[N+]=[N-])C[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)O | C11H20N4O3
reactant | Methyl iodide | 1.24 ml | CI | CH3I
reactant | Water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | cis-4-azidomethyl-1-tert-butoxycarbonyl-3-methoxypiperidine | 1.5 g | N(=[N+]=[N-])C[C@@H]1[C@@H](CN(CC1)C(=O)OC(C)(C)C)OC | C12H22N4O3
